US07109387B2
A 40 l V4A steel stirred reactor was initially charged with 18.0 kg (114 mol) of 1,3-diisopropenylbenzene. 10.1 kg (277 mol) of hydrogen chloride were passed in within 8 h at an internal temperature of 5-10° C. (brine cooling) and an internal pressure of 1.1 bar. The remaining HCl was removed by stripping with nitrogen. 26 kg (99%) of 1,3-bis(α-chloroisopropyl)benzene were obtained as a colorless liquid; chlorine content 30.1%; 1H-NMR (CD2Cl2, 360 MHZ): 2.00 (s, 12 H, methyl), 7.29–7.52 (m, 3 H, aromat. H), 7.82-7.83 (m, 1 H, aromat. H).

reactant | 1,3-diisopropenylbenzene | 114 mol, 18.0 kg | C(=C)(C)C1=CC(=CC=C1)C(=C)C | C12H14
reactant | hydrogen chloride | 277 mol, 10.1 kg | Cl | ClH
reactant | brine | [Cl-].[Na+].O
product | 1,3-bis(α-chloroisopropyl)benzene | 26 kg, 99% | ClC(C)(C)C1=CC(=CC=C1)C(C)(C)Cl | C12H16Cl2
